US08193164B2
(R)-3-Amino-pyrrolidine-1-carboxylic acid (4-amino-cyclohexyl)-amide is prepared analogously to N,N′-bis-(4-amino-cyclohexyl)-6-chloro-[1,3,5]triazine-2,4-diamine (Intermediate IA) by replacing Intermediate IA1 with [(R)-1-(4-tert-butoxycarbonylamino-cyclohexylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (IF2)

reactant | N,N′-bis-(4-amino-cyclohexyl)-6-chloro-[1,3,5]triazine-2,4-diamine | NC1CCC(CC1)NC1=NC(=NC(=N1)NC1CCC(CC1)N)Cl | C15H26ClN7
reactant | [(R)-1-(4-tert-butoxycarbonylamino-cyclohexylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(NC1CCC(CC1)NC(=O)OC(C)(C)C)=O)=O | C21H38N4O5
product | (R)-3-Amino-pyrrolidine-1-carboxylic acid (4-amino-cyclohexyl)-amide | NC1CCC(CC1)NC(=O)N1C[C@@H](CC1)N | C11H22N4O
